US05371093
Slurry 2-amino-4-chlorobenzothiazole (0.255 mol) in water (325 mL), heat to reflux and add 48% hydrobromic acid (130 mL). Maintain at reflux for 20 minutes, cool to 0° C. and add a solution of sodium nitrite (17.56 g, 0.255 mol) in water (90 mL), maintaining a temperature of 0° C. Stir at 0° C. for 15 minutes and add by dropwise addition (while keeping cold) to a rapidly stirring mixture of copper (I) bromide (42.03 g, 0,293 mol) in 48% hydrobromic acid (86 mL) and water (225 mL). Stir at room temperature for 20 minutes and then heat on a steam bath for an additional 20 minutes. Allow to stand overnight, extract into methylene chloride and dry (MgSO4). Evaporate the solvent in vacuo and purify by chromatography to give 2-bromo-4-chlorobenzothiazole.

reactant | 2-amino-4-chlorobenzothiazole | 0.255 mol | NC=1SC2=C(N1)C(=CC=C2)Cl | C7H5ClN2S
reactant | sodium nitrite | 0.255 mol, 17.56 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 86 mL | Br | BrH
reactant | hydrobromic acid | 130 mL | Br | BrH
solvent | water | 325 mL | O | H2O
solvent | water | 90 mL | O | H2O
solvent | water | 225 mL | O | H2O
catalyst | copper (I) bromide | 0,293 mol, 42.03 g | [Cu]Br
product | 2-bromo-4-chlorobenzothiazole | BrC=1SC2=C(N1)C(=CC=C2)Cl | C7H3BrClNS
